US07285518B2
Preparation of N-(2,3-dihydro-1-benzofuran-5-yl)-2,3-dihydro-1-benzofuran-5 -amine
To a flask equipped with a magnetic stirrer, reflux condenser, and nitrogen inlet was added 2,3-dihydro-1-benzofuran-5-amine (4.53 grams, 33.3 mmoles, prepared as in Example 23 of U.S. Pat. No. 20040029932), 5-bromo-2,3-dihydrobenzofuran (6.63 grams, 32.9 mmoles), tris(dibenzylideneacetone)dipalladium (0) (0.61 grams, 0.67 mmoles), rac-2,2′-bis(diphenylphosphino)-1,1′-binapthyl (0.83 grams, 1.33 mmoles), sodium tert-butoxide (6.44 grams, 66.6 mmoles) and anhydrous toluene (60 mL). The contents of the flask were refluxed for three days; cooled to room temperature; and filtered through a pad of silica gel. The silica gel pad was then eluted with dichloromethane (200 mL). The combined organic layers were concentrated in vacuo to yield a dark yellow oil. The solid was chromatographed on silica gel, eluting with a hexane/ethyl acetate gradient. The resulting solid was recrystallized from ethanol to afford 1.8 grams of the desired product as a white solid. 1H NMR (CDCl3/D2O) δ 6.55-6.95 (m, 6H), 4.5 (t, 4H), 3.15 (t, 4H).

reactant | 2,3-dihydro-1-benzofuran-5-amine | O1CCC2=C1C=CC(=C2)N | C8H9NO
reactant | 5-bromo-2,3-dihydrobenzofuran | 32.9 mmoles, 6.63 grams | BrC=1C=CC2=C(CCO2)C1 | C8H7BrO
reactant | rac-2,2′-bis(diphenylphosphino)-1,1′-binapthyl | 1.33 mmoles, 0.83 grams | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 66.6 mmoles, 6.44 grams | CC(C)([O-])C.[Na+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.67 mmoles, 0.61 grams | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2,3-dihydro-1-benzofuran-5-yl)-2,3-dihydro-1-benzofuran-5 -amine | 1.8 grams | O1CCC2=C1C=CC(=C2)NC=2C=CC1=C(CCO1)C2 | C16H15NO2
